US04931083
3-hydroxy-5-methyl-1-phenyl-1,2,4-1H-triazole
Twenty-five g of 1-phenylsemicarbazide and 150 ml of trimethyl orthoacetate were combined, and 100 mg of p-toluenesulfonic acid was added. The mixture was stirred on a steam bath for 5 hours, and was then cooled and evaporated under vacuum. The residue was recrystallized from ethanol to obtain 24.6 g of the desired product.

reactant | 1-phenylsemicarbazide | C1(=CC=CC=C1)NNC(=O)N | C7H9N3O
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | trimethyl orthoacetate | 150 ml | C(C)(OC)(OC)OC | C5H12O3
product | 3-hydroxy-5-methyl-1-phenyl-1,2,4-1H-triazole | 24.6 g | OC1=NN(C(=N1)C)C1=CC=CC=C1 | C9H9N3O
